US04348410
β-Naphthyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride
A suspension of trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride(1.8 g), β-naphtol(1.44 g), sulfuric acid(0.05 g) and boric acid(0.03 g) in a mixture of dimethylsulfoxide(10 ml) and xylene(50 ml) was heated under reflux conditions for 20 hours. The resulting water was removed by azeotropy with xylene. Following concentration of the reaction mixture, the residue was chromatographed on a column of silica gel with chloroform/methanol as eluent to give the title compound.

reactant | trans-4-guanidinomethylcyclohexanecarboxylic acid hydrochloride | 1.8 g | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)O
reactant | β-naphtol | 1.44 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | sulfuric acid | 0.05 g | S(O)(O)(=O)=O | H2O4S
reactant | boric acid | 0.03 g | B(O)(O)O | BH3O3
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | β-Naphthyl trans-4-guanidinomethylcyclohexanecarboxylate hydrochloride | Cl.N(C(=N)N)C[C@@H]1CC[C@H](CC1)C(=O)OC1=CC2=CC=CC=C2C=C1 | InChI=1S/C19H23N3O2.ClH/c20-19(21)22-12-13-5-7-15(8-6-13)18(23)24-17-10-9-14-3-1-2-4-16(14)11-17;/h1-4,9-11,13,15H,5-8,12H2,(H4,20,21,22);1H/t13-,15-;
